US07582652B2
1-[2-Amino-3-(2,2-dimethyl-propyl)-3H-imidazo[4,5-b]pyridin-5-yl]-2-(4-fluoro-phenyl)-ethane-1,2-dione
Add MgSO4 (82.7 g, 687.05 mmol) and NaHCO3 (14.4 g, 171.41 mmol) in deionized water (1524 mL) over 5 minutes to a stirring solution of 3-(2,2-dimethyl-propyl)-5-(4-fluoro-phenylethynyl)-3H-imidazo[4,5-b]pyridin-2-ylamine (110.76 g, 343.57 mmol) in acetone (3665 mL). Add Hyflo Super Cel® (171.1 g) followed by KMnO4 (108.6 g, 687.21 mmol). Heat at 40-45° C. for 3 hours and then cool to room temperature. Add saturated aqueous Na2SO3 (1,800 mL) followed by EtOAc (3,500 mL) and water (3,500 mL). Filter through bed of Hyflo Super Cel® washing with a mixture of 9% MeOH/EtOAc (2,860 mL). Separate layers of filtrate, back-extract aqueous layer 2×2,750 mL EtOAc. Combine organic extracts, wash 2×2,380 mL saturated aqueous sodium chloride (4760 mL), and dry over Na2SO4. Filter, then concentrate under reduced pressure to provide a dark red-brown solid (185 g). Add acetone (650 mL), filter suspension, wash collected solid 3×167 mL MTBE (501 mL), and dry under reduced pressure at 45° C. to provide 106.79 g (88%) of the desired compound as a light yellow solid.

reactant | MgSO4 | 687.05 mmol, 82.7 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | NaHCO3 | 171.41 mmol, 14.4 g | C(=O)(O)[O-].[Na+]
reactant | 3-(2,2-dimethyl-propyl)-5-(4-fluoro-phenylethynyl)-3H-imidazo[4,5-b]pyridin-2-ylamine | 343.57 mmol, 110.76 g | CC(CN1C(=NC=2C1=NC(=CC2)C#CC2=CC=C(C=C2)F)N)(C)C | C19H19FN4
reactant | KMnO4 | 687.21 mmol, 108.6 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | Na2SO3 | 1,800 mL | [O-]S(=O)[O-].[Na+].[Na+]
reactant | water | 1524 mL | O | H2O
reactant | water | 3,500 mL | O | H2O
solvent | acetone | 3665 mL | CC(=O)C | C3H6O
solvent | EtOAc | 3,500 mL | CCOC(=O)C | C4H8O2
product | 1-[2-Amino-3-(2,2-dimethyl-propyl)-3H-imidazo[4,5-b]pyridin-5-yl]-2-(4-fluoro-phenyl)-ethane-1,2-dione | 185 g | NC1=NC=2C(=NC(=CC2)C(C(=O)C2=CC=C(C=C2)F)=O)N1CC(C)(C)C | C19H19FN4O2
